US06093732
Ethyl 7-(benzylsulfanyl)-4-hydroxy-3-quinolinecarboxylate
A mixture of 7.40 g of 3-(benzylsulfanyl)aniline from Preparation No. 28 and 7.70 g of diethyl ethoxymethylene malonate is heated at 135° C. under a gentle flow of argon for 2 h, then diluted with 30 mL of diphenyl ether and heated to 260-270° C. After 45 min, the solution was added to 500 mL of stirred heptane. The resulting solid was filtered, washed well with hexane, and dried under vacuum to afford 8.32 g of the title compound.

reactant | 3-(benzylsulfanyl)aniline | 7.40 g | C(C1=CC=CC=C1)SC=1C=C(N)C=CC1 | C13H13NS
reactant | diethyl ethoxymethylene malonate | 7.70 g | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | heptane | 500 mL | CCCCCCC | C7H16
solvent | diphenyl ether | 30 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Ethyl 7-(benzylsulfanyl)-4-hydroxy-3-quinolinecarboxylate | 8.32 g | C(C1=CC=CC=C1)SC1=CC=C2C(=C(C=NC2=C1)C(=O)OCC)O | C19H17NO3S
